US08058276B2
Step 12.5: 6-(2-Amino-pyrimidin-4-yloxy)-benzo[b]thiophene-3-carboxylic acid ethyl ester
A solution of 3.70 g (10.6 mMol) 6-(2-amino-6-chloro-pyrimidin-4-yloxy)-benzo[b]thiophene-3-carboxylic acid ethyl ester in 300 ml THF and 8.68 ml (108 mMol) pyridine is hydrogenated in presence of 3.0 g Pd/C (10%; added in 3 portions during 23 h). The mixture is filtered and the solid washed extensively with MeOH. The filter cake still contains product and is therefore stirred in EtOAc and water. The separated EtOAc layer is washed twice with water, added to the filtrate and concentrated. The residue is re-dissolved in 300 ml EtOAc and 50 ml MeOH. Then water is added, the aq. layer separated off and extracted 4× with EtOAc. The organic layers are washed with water and brine, dried (Na2SO4) and concentrated together with 21 g SiO2. The resulting powder is put on top of a SiO2-column and the title compound eluated with EtOAc/hexane 9:1: m.p.: 144-145° C.; TLC(EtOAc/hexane 9:1): Rf=0.27.

reactant | 6-(2-amino-6-chloro-pyrimidin-4-yloxy)-benzo[b]thiophene-3-carboxylic acid ethyl ester | 10.6 mMol, 3.70 g | C(C)OC(=O)C=1C2=C(SC1)C=C(C=C2)OC2=NC(=NC(=C2)Cl)N | C15H12ClN3O3S
reactant | pyridine | 108 mMol, 8.68 ml | N1=CC=CC=C1 | C5H5N
solvent | THF | 300 ml | C1CCOC1 | C4H8O
catalyst | Pd/C | 3.0 g | [Pd] | Pd
product | 6-(2-Amino-pyrimidin-4-yloxy)-benzo[b]thiophene-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C2=C(SC1)C=C(C=C2)OC2=NC(=NC=C2)N | C15H13N3O3S
